US05536745
a)2-Bromo-3-methoxybenzyl bromide
2-Bromo-3-methylanisole (2.02 g, 1.00 mmol) and N-bromosuccinimide in carbon tetrachloride (25 ml) were heated to reflux over a 150 W light bulb for 2 h. The solution was cooled to 5° C., filtered and evaporated to drynes under reduced pressure. Purification by flash chromatography using hexane/dichloromethane (8:1) as eluent gave the title compound (162 g, 58%) as a white low melting point solid; δH (CDCl3) 3.90 (3H, s, OCH3), 4.64 (2H, s, CH2Br), 6.85 (1H, dd, J 8.2 and 1.3 Hz, 6-H), 7.08 (1H, dd, J 7.5 and 1.3 Hz, 4-H9, 7.23-7.30 (1H, m, 5-H): δC (CDCl3) 33.7 (CH2Br), 56.4 (OCH3), 111.8, 114.1 (C-2), 123.1, 128.3, 138.6 (C-1), 156.4 (C-3): m/z 282 (M+, 12%), 280 (M+, 13%). 199 (100%): (Found: M+, 277.8947. C8H8OBr2 requires M, 277.8942).

reactant | 2-Bromo-3-methylanisole | 1.00 mmol, 2.02 g | BrC1=C(C=CC=C1C)OC | C8H9BrO
reactant | N-bromosuccinimide | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 25 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-Bromo-3-methoxybenzyl bromide | 162 g, 58% | BrC1=C(CBr)C=CC=C1OC | C8H8Br2O
